US05278163
To the mixture of 60 g of 2-benzyl-4,5-dichloro-3(2H)-pyridazinone and 38.8 g of potassium hydroxide was added 250 ml of ethanol and 150 ml of water and heated in an oil bath to the refluxing temperature for 10 hours. After reaction the solvent was distilled off under reduced pressure, and to the residual solution was added 200 ml of water and washed twice with chloroform, the water layer was acidified with concentrated hydrochloric acid. The white solid thus separated was filtered off, washed with water and dried to obtain 55 g of 2-benzyl-4-chloro-5-hydroxy-3(2H)-pyridazinone. Subsequently, in aqueous sodium hydroxide solution (NaOH 1.82 g, water 20 ml) were added 5.0 g of 2-benzyl-4-chloro-5-hydroxy-3(2H)-pyridazinone and 200 mg of 5 % Pd/C , then 474 ml of hydrogen gas was absorbed in the solution under normal pressure. After reaction, Pd/C was filtered off and to the solution was added concentrated hydrochloric acid to be acidified. The white solid thus separated was filtered off, washed with water and dried to obtain 4.1 g of 2-benzyl-5-hydroxy-3(2H)-pyridazinone.

reactant | 2-benzyl-4-chloro-5-hydroxy-3(2H)-pyridazinone | 5.0 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)O | C11H9ClN2O2
solvent | sodium hydroxide | 20 ml, 1.82 g | [OH-].[Na+]
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 2-benzyl-5-hydroxy-3(2H)-pyridazinone | 4.1 g | C(C1=CC=CC=C1)N1N=CC(=CC1=O)O | C11H10N2O2
